US07056932B2
According to general procedure C, (RS)-methoxy-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-acetic acid was reacted with [(4-aminomethyl-phenyl)-imino-methyl]-carbamic acid benzyl ester dihydrochloride (CAS 172348-75-3) to give (RS)-[1-amino-1-[4-({2-methoxy-2-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-acetylamino}-methyl)-phenyl]-meth-(E)-ylidene]-carbamic acid benzyl ester. Light yellow solid. MS 602.3 ([M+H]+)

reactant | (RS)-methoxy-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-acetic acid | COC(C(=O)O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C16H24N2O4Si
reactant | [(4-aminomethyl-phenyl)-imino-methyl]-carbamic acid benzyl ester dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)OC(NC(=N)C1=CC=C(C=C1)CN)=O
product | (RS)-[1-amino-1-[4-({2-methoxy-2-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-acetylamino}-methyl)-phenyl]-meth-(E)-ylidene]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(/N=C(\C1=CC=C(C=C1)CNC(C(C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)OC)=O)/N)=O | C32H39N5O5Si
